US07732448B2
0.10 g of sodium hydride (60% oil suspension) was suspended in 3 ml of tetrahydrofuran. 1 ml of tetrahydrofuran solution of 0.16 g of 2-butyn-1-ol was added dropwise therein, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 1 ml of tetrahydrofuran solution of 0.31 g of 4-chloro-6-(cis-3,5-dimethylpiperidino)-5-fluoropyrimidine and stirred for 6 hours at 60° C. Into the reaction mixture was added a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.32 g of 4-(2-butynyloxy)-5-fluoro-6-(cis-3,5-dimethylpiperidino)pyrimidine (hereinafter, referred to as Compound (29)).

reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.16 g | C(C#CC)O | C4H6O
reactant | 4-chloro-6-(cis-3,5-dimethylpiperidino)-5-fluoropyrimidine | 0.31 g | ClC1=NC=NC(=C1F)N1C[C@H](C[C@H](C1)C)C | C11H15ClFN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-5-fluoro-6-(cis-3,5-dimethylpiperidino)pyrimidine | 0.32 g | C(C#CC)OC1=NC=NC(=C1F)N1C[C@H](C[C@H](C1)C)C | C15H20FN3O
